US03975535
4,8-Dimethylisocoumarin-3-carboxylic acid, mp. (EtOH- dilute HCl) 237°-9°, (Found: C, 66.33; H, 4.77. C12H10O4 requires C, 66.05; H, 4.62) was prepared from 2-acetyl-6-methylbenzoic acid by an analogous procedure to that described in Example 2.

reactant | 2-acetyl-6-methylbenzoic acid | C(C)(=O)C1=C(C(=O)O)C(=CC=C1)C | C10H10O3
solvent | EtOH | CCO | C2H6O
product | 4,8-Dimethylisocoumarin-3-carboxylic acid | CC1=C(OC(=O)C2=C(C=CC=C12)C)C(=O)O | C12H10O4
